US04623652
1,1-Dimethyl-2-acetamidoethylamine
A mixture of 26.4 g (0.3 mol) of ethyl acetate and 79.2 g (0.9 mole) of 1,2-diamino-2-methylpropane was heated at 100° C. in a pressured bomb for 36 hours. The reaction mixture was evaporated in vacuo and distilled to give 22.4 g (57.4%) of product which had a boiling point of 100° C. at 0.1 mmHg. This product was identified by NMR and IR spectroscopy.

reactant | ethyl acetate | 0.3 mol, 26.4 g | C(C)(=O)OCC | C4H8O2
reactant | 1,2-diamino-2-methylpropane | 0.9 mole, 79.2 g | NCC(C)(C)N | C4H12N2
product | 1,1-Dimethyl-2-acetamidoethylamine | 22.4 g, 57.4% | CC(CNC(C)=O)(C)N | C6H14N2O
